US07714135B2
Preparation of 2-(2-methyl-imidazol-1-yl)-ethanol
A solution of (2-methyl-imidazol-1-yl)-acetic acid methyl ester (2.6 g) in diethyl ether (39 ml) is added drop wise to a suspension of LiAlH4 (1.3 g) in 130 ml diethyl ether (130 ml) at 0° C. After 1 hour 1.3 g water, 1.3 g 15% NaOH and 4 g water is added and the slurry stirred for 1 hour. After addition of MgSO4 and filtration the filter cake is washed several times with hot ethyl acetate. After removal of the solvent, the crude product is used without further purification.

reactant | (2-methyl-imidazol-1-yl)-acetic acid methyl ester | 2.6 g | COC(CN1C(=NC=C1)C)=O | C7H10N2O2
reactant | LiAlH4 | 1.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1.3 g | [OH-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | diethyl ether | 39 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 130 ml | C(C)OCC | C4H10O
solvent | water | 4 g | O | H2O
solvent | water | 1.3 g | O | H2O
product | 2-(2-methyl-imidazol-1-yl)-ethanol | CC=1N(C=CN1)CCO | C6H10N2O
